US05834506
(S)-6-Cyclopentyl-4-hydroxy-6-[2-(3-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 4 using (S)-6-[2-(3-benzyloxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one (0.64 g, 1.63 mmol) from Example EEEEE, 0.1 g of 20% Pd over charcoal and THF (16 mL). Purification by silica gel chromatography, eluting with CH2Cl2 :MeOH (97.5:2.5) gave the title compound. 1H-NMR (DMSO-d6) δ 1.3-1.7 (m, 8 H), 1.85-1.95 (m, 2 H), 2.35 (t, 1 H), 2.4-2.6 (m, 4 H), 4.95 (s, 1 H), 6.55-6.6 (m, 3 H), 7.05 (t, 1 H), 9.25 (s, 1 H), 11.35 (s, 1 H).

reactant | (S)-6-[2-(3-benzyloxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | 1.63 mmol, 0.64 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC[C@]1(CC(=CC(O1)=O)O)C1CCCC1 | C25H28O4
reactant | charcoal | C | CH4
catalyst | Pd | 0.1 g | [Pd] | Pd
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | (S)-6-Cyclopentyl-4-hydroxy-6-[2-(3-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C1(CCCC1)[C@@]1(CC(=CC(O1)=O)O)CCC1=CC(=CC=C1)O | C18H22O4
